US08138175B2
D) 4-[3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-1-(3-trifluoromethoxy-phenyl)-[1,4]diazepan-5-one
The title compound was prepared from 4-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-[1,4]diazepan-5-one and 1-iodo-3-trifluoromethoxy-benzene in analogy to example 33. MS: 442.3 (MH+).

reactant | 4-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-[1,4]diazepan-5-one | O[C@H]1C2(CC2)CCN(C1)CCCN1CCNCCC1=O | C15H27N3O2
reactant | 1-iodo-3-trifluoromethoxy-benzene | IC1=CC(=CC=C1)OC(F)(F)F | C7H4F3IO
product | 4-[3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-1-(3-trifluoromethoxy-phenyl)-[1,4]diazepan-5-one | O[C@H]1C2(CC2)CCN(C1)CCCN1CCN(CCC1=O)C1=CC(=CC=C1)OC(F)(F)F | C22H30F3N3O3
